Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / pravastatin / fenofibrate
 
Attending: ___.
 
Chief Complaint:
Positive stress test
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o HTN, DM, HLD referred to ED for positive stress test. 

Patient saw PCP ___ who ordered ETT given progressive 
dyspnea on exertion over the last ___ months, worse over the 
past few weeks. He is only able to walk ___ yards before he 
has to stop due to SOB (also with back pain ___ spinal 
stenosis). He is only able to do ___hores 
before he gets winded. Wife notices him wheezing at times. The 
DOE is associated with  chest pressure, which he feels at his 
midsternal area, ___. It comes on with exertion and is 
quickly relieved with rest. He also had chest pressure during 
the stress test, which resolved at rest. No fever/chills, cough, 
abdominal pain, orthopnea, PND. Sleeps on one pillow. Possible 
leg swelling. Last TTE ___ years ago at OSH but normal per 
patient report.

Of note, pt also reports bilateral leg pain with ambulation that 
is relieved with rest. This has been going on for about 9months, 
initially with calf pain on ambulation, and now progressing to 
both calf and thigh pain. No pain at rest. Pt does occasionally 
drape his leg off the bed when he sleeps but does not seem to be 
to relieve pain.  This leg pain is distinct from his ___ diabetic 
neuropathy and his intermittent ___ cramps he has experienced for 
some time. 

- In the ED, vitals were 98.5 70 138/53 16 96% RA. His exam was 
notable for ___ systolic murmur, bibasilar crackles, and trace 
edema.
- Labs showed nl CBC, Na 129, K of 6.5 (hemolyzed) with repeat K 
4.3, BUN/Cr ___, BNP 91, nl coags, neg trop x 2. 
- He received full dose aspirin.
- CXR showed Extensive bilateral pleural plaques concerning for 
prior asbestos exposure. Persistent inferolateral right pleural 
thickening. Left base opacity new since ___ may represent new 
pleural thickening/progression of post asbestos exposure 
changes, underlying infection or aspiration not excluded. 
- EKG showed NSR and no ischemic changes. 
- Cardiology was consulted and recommended admission for cath. 
- Vitals prior to transfer 77 174/53 16 98% RA 

On the floor, vitals 98.0 140/58 79 18 96% RA. Pt reports 
history as above.

Review of systems is per HPI and otherwise reviewed and 
negative.

 
Past Medical History:
1. CARDIAC RISK FACTORS:  HTN, IDDM, HLD

2. CARDIAC HISTORY:  
- CABG/PCI:  None
- PUMP FUNCTION: Unknown 
- PACING/ICD:  None

3. OTHER PAST MEDICAL HISTORY:  Spinal stenosis, macular 
degeneration, constipation, prostate cancer in remission s/p 
radiation ___

 
Social History:
___
Family History:
Uncle: DM, died from MI in ___
Father: ___, lived to ___
Cousin: MI in ___ 
 
Physical Exam:
ADMISSION EXAM
==============
Vitals:  98.0 140/58 79 18 96% RA
General:  ___ man looking younger than stated age, lying almost 
flat in bed, looking well, speaking in full sentences without 
difficulty
HEENT:  Atraumatic, EOMI, PERRL, MMM
Neck:  Supple with flat JVP
CV:  RRR, ___ systolic murmur loudest at LUSB, no gallops or 
rubs appreciated. 
Lungs:  CTAB, no wheezes, rhonchi, crackles. Good air movement
Abdomen:  NABS. ___, soft, ___. No ___ 
sign
GU:  No CVAT bilaterally
Extr:  Trace to 1+ edema to bilateral ___. 2+ DP and radial 
pulses. Extremities warm.
Neuro:  AOx3. Strength and sensation grossly normal. 
Skin:  Scattered nevi across back and chest. No bruises, lesions 
noted.

DISCHARGE EXAM
==============
Vitals:  98 ___ 18 ___
General:  ___ man looking younger than stated age, lying almost 
flat in bed, looking well, speaking in full sentences without 
difficulty
HEENT:  Atraumatic, EOMI, PERRL, MMM
Neck:  Supple with flat JVP
CV:  RRR, ___ systolic murmur loudest at LUSB not radiating to 
carotids, no gallops or rubs appreciated. 
Lungs:  Slight crackles at bases with decreased breath sounds 
bilaterally, no wheezes, rhonchi. 
Abdomen:  NABS. ___, soft, ___. No ___ 
sign
GU:  No CVAT bilaterally
Extr:  Trace edema to bilateral ___. 2+ DP and radial pulses. 
Extremities warm.
Neuro:  AOx3. Strength and sensation grossly normal. 
Skin:  Scattered nevi across back and chest. No bruises, lesions 
noted.

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:30AM BLOOD ___ 
___ Plt ___
___ 10:30AM BLOOD ___ 
___ 
___
___ 10:30AM BLOOD ___ 
___
___ 10:30AM BLOOD ___ ___
___ 10:30AM BLOOD ___ 
___

IMAGING
=======
___ CXR
FINDINGS:  Bilateral pleural calcifications/plaques are re- 
demonstrated suggesting prior asbestos exposure.  Persistent 
inferolateral right pleural thickening is seen. 
Left base opacities which are new since the prior study from ___ 
could in part relate to new pleural thickening however, 
underlying infection or aspiration may be present.  There is 
blunting of the left costophrenic angle, new since the prior 
study which may be due to a trace pleural effusion versus 
pleural thickening.  No pneumothorax is seen.  The cardiac and 
mediastinal silhouettes are stable.  Evidence of DISH is seen 
along the thoracic spine. 
  
IMPRESSION:    Extensive bilateral pleural plaques raise concern 
for prior asbestos exposure. 
Persistent inferolateral right pleural thickening. 
Left base opacity new since ___ may represent new pleural 
thickening/progression of post asbestos exposure changes, 
underlying infection or aspiration not excluded. 

___ TTE
Conclusions   
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Suboptimal image quality. Preserved biventricular 
global systolic function. Increased left ventricular filling 
pressure. No clinically signficant valvular disease. Normal 
pulmonary artery systolic pressure.   

DISCHARGE LABS
==============

___ 06:42AM BLOOD ___ 
___ Plt ___
___ 06:42AM BLOOD Plt ___
___ 06:42AM BLOOD ___ 
___
___ 06:42AM BLOOD ___RIEF SUMMARY
=============
___ h/o HTN, DM, HLD who was admitted for CAD work up after 
having a positive stress EKG in the inferior leads after 
experiencing progressive dyspnea on exertion over six months. He 
had a normal echocardiogram, and it was decided to first pursue 
medical management before pursuing a catheterization. He was 
discharged to home.

ACTIVE ISSUES
==============
# Positive stress EKG: Stress EKG was concerning for ischemia in 
inferior distribution. Patient has risk factors including HLD, 
HTN, IDDM. Coronary artery calcifications were seen on CT chest 
in ___. Last known TTE was ___ in ___, where he 
was noted to have aortic sclerosis, moderate mitral annular 
calcium. Here, troponins were negative x2, EKG was normal sinus 
rhythm without any ischemic changes, and patient remained 
asymptomatic without chest pain or dyspnea throughout the 
admission. He was comfortable on room air throughout the 
admission. ___ TTE was reassuring with good LV and RV function. 
A cardiac catheterization was considered but deferred for this 
admission based on the minimal to borderline ischemic changes 
seen on the stress EKG, his normal baseline EKG, negative 
troponins, and normal TTE. Through discussion with the patient, 
it was decided to pursue maximal medical therapy first before 
pursuing an interventional measure. Patient was started on 
metoprolol and will be discharged with this. He will also be 
discharged with new meds Imdur, Coenzyme q10 for 2 weeks before 
retrialling pravastatin, which patient previously could not 
tolerate due to myopathy.

# Dyspnea on exertion: The patient remained comfortable on room 
air throughout his stay. Dyspnea is concerning for cardiac 
etiology with positive stress test, though CXR without 
effusions, and troponin and BNP negative. Patient remained 
euvolemic throughout his stay. We also discussed that his 
dyspnea may be related to pleural plaques seen on CXR, which was 
suggestive of asbestos exposure. We also considered COPD given 
patient's significant smoking history, as ___ CT chest showing 
mild emphysema. We would recommend outpatient cardiology and 
pulmonology follow up.

# Claudication: Pt reporting symptoms consistent with 
claudication, but without any previous work up. No symptoms at 
rest. 2+ DP pulses on exam. We would recommend an outpatient 
workup for PAD.

# HTN: BP 140/58 on admission. Home lisinopril 40mg was 
continued, and his home HCTZ 25 was held for mild hyponatremia 
on admission. At discharge, his HCTZ was discontinued and Imdur 
was started.

CHRONIC ISSUES
==============
#  ___ diabetes: On NPH 50BID at home that pt 
adjusts based on fingersticks. Patient was discharged on the 
same regimen.

TRANSITIONAL ISSUES
===================
- New medications: Metoprolol succinate 25, Imdur 30, Coenzyme 
q10 100mg BID through ___, then would recommend retrailling 
pravastatin, which pt previously could not tolerate due to 
myopathy.
- Stopped medication: HCTZ 25
- No changes in other medications
- Recommend repeat BMP ___ weeks after patient is discharged to 
assess hyponatremia
- Recommend establishing care with cardiologist to monitor 
angina symptoms through increased medical management, and if 
necessary, pursuing left heart catheterization if symptoms are 
not improved or worsen
- Recommend establishing care with a pulmonologist to evaluate 
pt's extensive pleural plaques in the setting of worsening 
dyspnea on exertion
- Recommend evaluation of patient's claudication symptoms given 
substantial past smoking history (___)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO QHS 
3. Lisinopril 40 mg PO QHS 
4.  NPH 50 Units Q12H
5. Docusate Sodium 100 mg PO QHS 
6. Polyethylene Glycol 17 g PO QHS 
7. Eylea (aflibercept) 2 mg/0.05 mL Other ASDIR 
8. Vitamin D 1000 UNIT PO DAILY 
9. PreserVision AREDS 2 (vit ___ 
___ oral DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. B Complex (vit ___ B 
complex)    oral DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO QHS 
3.  NPH 50 Units Q12H
4. Lisinopril 40 mg PO QHS 
5. Vitamin D 1000 UNIT PO DAILY 
6. Polyethylene Glycol 17 g PO QHS 
7. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
8. B Complex (vit ___ B complex) 
   ORAL DAILY 
9. Eylea (aflibercept) 2 mg/0.05 mL Other ASDIR 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. PreserVision AREDS 2 (vit ___ 
___ oral DAILY 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
13. Pravastatin 20 mg PO QPM 
RX *pravastatin 20 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*0
14. coenzyme Q10 100 mg oral BID Duration: 14 Days 
RX *coenzyme Q10 100 mg 1 capsule(s) by mouth twice a day Disp 
#*28 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dyspnea on exertion
Anginal symptoms
Positive stress EKG
Hypertension
Diabetes
Pleural plaques 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had an abnormal 
stress test that concerned your primary care doctor for your 
heart.

While you were here, you were started on a new medication called 
metoprolol, which is to protect your heart. You also received an 
echocardiogram that was normal. This was reassuring that there 
are not areas of your heart with critically low blood flow. 
However, your heart's blood vessels may still have some 
blockages that could be causing your symptoms of difficulty 
breathing. At this point, we recommend continuing on maximal 
medical therapy to protect your heart, and if your difficulty 
breathing does not improve, or your chest pressure symptoms 
worsen, we would recommend undergoing further evaluation of your 
heart. We would also recommend that you start seeing a heart 
doctor as an outpatient for close monitoring.

As for your breathing, it is possible that the asbestos exposure 
could be playing a role. We would recommend seeing a lung doctor 
(___) once you leave the hospital. 

Moving forward, please note the following changes:
- please follow up with your PCP
- new medications: metoprolol succinate 25mg, Isosorbide 
mononitrate 30mg, CoEnzyme Q10 100mg twice a day until ___, 
followed by pravastatin 
- stopped medications: HCTZ 25mg
- continue taking your other medications, especially aspirin 
81mg and lisinopril 40mg

We wish you the best,
Your ___ care team
 
Followup Instructions:
___